US06864266B2
4-{[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidine-1-carboxylic acid methylamide
To a solution of (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-piperidin-4-ylmethyl-propyl-amine (200 μL of a 0.25 M solution in dichloromethane, 50 μmole) was added 220 μL of a 0.25 M solution of methyl isocyanate in acetonitrile and 30 μL of DIEA. The solution was allowed to stir for 24 h at 25° C. under N2 and then concentrated in vacuo. The final product was isolated by preparative RPHPLC (YMC Combiprep ODS-A column, 10-90% acetonitrile: water (0.1 % TFA)) to afford 4-{[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidine-1-carboxylic acid methylamide (17.1 mg) 25 [M+H]+=374.

reactant | (7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-piperidin-4-ylmethyl-propyl-amine | COC1=CC=C2CCC(CC2=C1)N(CCC)CC1CCNCC1 | C20H32N2O
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DIEA | 30 μL | CCN(C(C)C)C(C)C | C8H19N
product | 4-{[(7-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-propyl-amino]-methyl}-piperidine-1-carboxylic acid methylamide | CNC(=O)N1CCC(CC1)CN(CCC)C1CC2=CC(=CC=C2CC1)OC | C22H35N3O2
